US04096267
Step B: 5-(1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxymethyl)tetrazole
(1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile (4.87 g., 0.014 mole), sodium azide (1.09 g., 0.0168 mole), ammonium chloride (0.90 g., 0.0168 mole) and dimethylformamide (30 ml.) are heated at 80° C. for 21/2 hrs. The reaction mixture is poured into water (500 ml.), the solution filtered and acidified with 6N hydrochloric acid to precipitate 2.60 g. of 5-(1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxymethyl)tetrazole which melts at 227°-229° C. after crystallization from ethanol.

reactant | (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile | 0.014 mole, 4.87 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC#N)(C1=CC=CC=C1)C | C18H13Cl2NO2
reactant | sodium azide | 0.0168 mole, 1.09 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.0168 mole, 0.90 g | [Cl-].[NH4+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 5-(1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxymethyl)tetrazole | O=C(C1=NN=NN1)OC=1C=C2CC(CC2=C(C1Cl)Cl)(C1=CC=CC=C1)C | C18H14Cl2N4O2
